US08809382B2
Step 3: 5-Chloro-2-heptyl-1-methyl-1H-indole
To the solution of 5-chloro-2-heptyl-1H-indole in DMSO was added KOH at RT and was stirred for 30 minutes. Then to this mixture, iodomethane was added and stirred for 3 hours. The reaction was quenched with saturated ammonium chloride solution and extracted with ethyl acetate. The product, 5-chloro-2-heptyl-1-methyl-1H-indole was purified by column chromatography.

reactant | 5-chloro-2-heptyl-1H-indole | ClC=1C=C2C=C(NC2=CC1)CCCCCCC | C15H20ClN
reactant | KOH | [OH-].[K+]
reactant | iodomethane | IC | CH3I
solvent | DMSO | CS(=O)C | C2H6OS
product | 5-Chloro-2-heptyl-1-methyl-1H-indole | ClC=1C=C2C=C(N(C2=CC1)C)CCCCCCC | C16H22ClN
